US08022222B2
Using the method of Example 32, 3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoic acid (0.1 g, 0.3055 mmol), triethylamine (0.2129 mL, 1.527 mmol)), ethyl carbonochloridate (0.03359 mL, 0.3513 mmol), 2-(pyrrolidin-1-yl)ethanamine (0.1161 mL, 0.9164 mmol) were reacted in THF (2 mL) to provide 3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)-N-(2-(pyrrolidin-1-yl)ethyl)benzamide dihydrochloride (0.088 g, 57.45% yield) as an off white solid. 1H NMR (CDCl3) δ 8.88 (s, 1H), 8.17 (d, 1H), 8.02 (d, 1H), 7.96 (s, 1H), 7.54 (t, 1H), 7.24 (m, 1H), 6.76 (dd, 1H), 6.39 (s, 1H), 3.97 (m, 2H), 3.90 (m, 2H), 3.37 (m, 2H), 2.87 (m, 2H), 2.40 (d, 3H), 2.25 (m, 2H), 2.09 (m, 2H); Mass spectrum (esi) m/z=424 (100) (M+H).

reactant | 3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoic acid | 0.3055 mmol, 0.1 g | CC=1N=C(SC1)NC1=NC=CC(=C1)OC=1C=C(C(=O)O)C=CC1 | C16H13N3O3S
reactant | triethylamine | 1.527 mmol, 0.2129 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl carbonochloridate | 0.3513 mmol, 0.03359 mL | C(OCC)(=O)Cl | C3H5ClO2
reactant | 2-(pyrrolidin-1-yl)ethanamine | 0.9164 mmol, 0.1161 mL | N1(CCCC1)CCN | C6H14N2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)-N-(2-(pyrrolidin-1-yl)ethyl)benzamide dihydrochloride | 0.088 g, 57.45% yield | Cl.Cl.CC=1N=C(SC1)NC1=NC=CC(=C1)OC=1C=C(C(=O)NCCN2CCCC2)C=CC1 | InChI=1S/C22H25N5O2S.2ClH/c1-16-15-30-22(25-16)26-20-14-19(7-8-23-20)29-18-6-4-5-17(13-18)21(28)24-9-12-27-10-2-3-11-27;;/h4-8,13-15H,2-3,9-12H2,1H3,(H,24,28)(H,23,25,26);2*1H
